### PR TITLE
Prove ResidueTheoremAtOrigin (ResidueCalcOnRectangles.lean)

### PR DESCRIPTION
**Pull request by ultronozm**
check out my proof

### CODE REVIEW

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 1]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
 \end{proof}
 %%-/
 
+theorem ResidueTheoremAtOrigin_aux1a1 (f : ℝ → ℝ) : 
+  ∫ (x : ℝ) in (-1)..1, (f x : ℂ) = ∫ (x : ℝ) in (-1)..1, (f x : ℝ) := by
+  exact intervalIntegral.integral_ofReal
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: If it's a one-line exact, then it probably doesn't need to be a standalone theorem?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 2]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+    by_contra h
+    have h₁ : (x + -I).im = -1 := by
+      simp only [add_im, ofReal_im, neg_im, I_im, zero_add]
+    have h₂ : (x + -I).im = 0 := by
+      rw [h]
+      exact rfl
+    linarith
+  apply hu₁.mul_left_cancel
+  rw [mul_sub]
+  rw [(IsUnit.mul_inv_eq_one hu₁).mpr rfl]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine two `rw`s into a single

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 3]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+      simp only [add_im, ofReal_im, I_im, zero_add, eq_neg_self_iff, one_ne_zero]
+    have h₂ : (x + I).im = 0 := by
+      rw [h]
+      exact rfl
+    linarith
+  apply hu₂.mul_left_cancel
+  rw [mul_sub, ← mul_assoc]
+  nth_rw 2 [mul_comm]
+  rw [← mul_assoc]
+  rw [(IsUnit.inv_mul_eq_one hu₂).mpr rfl]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: two `rw`s

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 4]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+  symm
+  rw [← mul_assoc]
+  have : (x + I) * (x + -I) = 1 + x^2 := by
+    ring_nf
+    simp only [I_sq, sub_neg_eq_add]
+    rw [add_comm]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean:279]: Hmm can the `simp only` and `rw` combine into one line?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 5]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+  rw [(IsUnit.inv_mul_eq_one hu₂).mpr rfl]
+  symm
+  rw [← mul_assoc]
+  have : (x + I) * (x + -I) = 1 + x^2 := by
+    ring_nf
+    simp only [I_sq, sub_neg_eq_add]
+    rw [add_comm]                                    
+  rw [this]
+  simp
+  rw [← mul_assoc, mul_comm, ← mul_assoc]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: Can these three be combined? (Also non-terminal `simp`)

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 6]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+  have : IsUnit (1 + (x : ℂ)^2) := by
+    have : (x + I) * (x + -I) = 1 + (x : ℂ)^2 := by
+      ring_nf
+      simp only [I_sq, sub_neg_eq_add]
+      rw [add_comm]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean:287]: combine?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 7]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+    rw [← this]
+    exact IsUnit.mul hu₂ hu₁
+  rw [(IsUnit.inv_mul_eq_one this).mpr rfl]
+  ring
+
+theorem integrable_of_continuous (a b : ℝ) (A : Type) [NormedRing A] (f : ℝ → A) (hf : ContinuousOn f [[a,b]]) :
+  IntervalIntegrable f volume a b := by
+  let g : ℝ → A := fun _ ↦ 1
+  have : IntervalIntegrable g volume a b := intervalIntegrable_const
+  have := IntervalIntegrable.mul_continuousOn this hf
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine these into one `have`?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 8]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+  simp at this
+  exact this
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: try `simpa using this`? (When you have a `simp` and `exact` back to back...)

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 9]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+
+theorem continuous_of_inverse_continuous_nonzero (a b : ℝ) (f : ℝ → ℂ) (hf : ContinuousOn f [[a,b]]) (h : ∀ y ∈ [[a,b]], f y ≠ 0) :
+  ContinuousOn (fun x ↦ (f x)⁻¹) [[a, b]] := by
+  apply ContinuousOn.inv₀ hf h
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: Another one-liner, maybe doesn't need to be its own theorem?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 10]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+  simp only [neg_zero, zero_sub, ofReal_neg, ofReal_one, neg_mul, one_mul, one_div, sub_zero,
+    add_zero, zero_add]
+  rw [← intervalIntegral.integral_sub]
+  · have : ∀ x : ℝ, (x + -I)⁻¹ - (x + I)⁻¹ = (2 * I) * (1 / (1 + (x : ℝ)^2)) := by
+      intro x
+      exact ResidueTheoremAtOrigin_aux1b x
+    simp_rw [this]
+    rw [intervalIntegral.integral_const_mul (2 * I)]
+    rw [ResidueTheoremAtOrigin_aux1a]
+    simp
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine and non-terminal `simp`

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 11]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+theorem ResidueTheoremAtOrigin_aux2b (y : ℝ) : (1 + y * I)⁻¹ - (-1 + y * I)⁻¹ = 2 * (1 / (1 + y ^ 2)) := by
+  have hu₁ : IsUnit (1 + y * I) := by
+    apply Ne.isUnit
+    by_contra h
+    have h₁ : (1 + y * I).re = 1 := by
+      simp only [add_re, one_re, mul_re, ofReal_re, I_re, mul_zero, ofReal_im, I_im, mul_one,
+        sub_self, add_zero]
+    have h₂ : (1 + y * I).re = 0 := by
+      rw [h]
+      exact rfl
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean:365]: maybe `rwa [h]` will close it? (tries to rewrite and close using `a`ssumptions)

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 12]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+    linarith
+  apply hu₁.mul_left_cancel
+  rw [mul_sub]
+  rw [(IsUnit.mul_inv_eq_one hu₁).mpr rfl]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 13]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+      rw [h]
+      exact rfl
+    linarith
+  apply hu₂.mul_left_cancel
+  rw [mul_sub, ← mul_assoc]
+  nth_rw 3 [mul_comm]
+  rw [← mul_assoc]
+  rw [(IsUnit.inv_mul_eq_one hu₂).mpr rfl]
+  symm
+  rw [← mul_assoc]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine (the `symm` can be a `rw [Eq.symm]` - something like that)

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 14]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+  have : (-1 + y * I) * (1 + y * I) = -1 - y ^ 2 := by
+    ring_nf
+    simp only [I_sq, mul_neg, mul_one]
+    rfl
+  rw [this]
+  simp
+  rw [← mul_assoc, mul_comm, ← mul_assoc]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine, non-terminal `simp`

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 15]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+  have : (-1 - (y : ℂ)^2) = -(1 + y ^ 2) := by
+    ring
+  rw [this]
+  rw [mul_neg]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 16]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+    rw [← this]
+    have hu₂' : IsUnit (1 - y * I) := by
+      apply Ne.isUnit
+      by_contra h
+      have h₁ : (1 - y * I).re = 1 := by
+        simp only [sub_re, one_re, mul_re, ofReal_re, I_re, mul_zero, ofReal_im, I_im, mul_one,
+          sub_self, sub_zero]
+      have h₂ : (1 - y * I).re = 0 := by
+        rw [h]
+        exact rfl
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean:408]: `rwa`?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 17]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+    · simp only [ne_eq, inv_eq_zero, Subtype.forall]
+      intro x _
+      by_contra h
+      have : (1 + x * I).re = 1 := by
+        simp only [add_re, one_re, mul_re, ofReal_re, I_re, mul_zero, ofReal_im, I_im, mul_one,
+          sub_self, add_zero]
+      rw [h] at this
+      simp only [zero_re, zero_ne_one] at this 
+    apply ContinuousOn.add _ _
+    · exact continuousOn_const
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: can you pull the one-line `exact` into the `apply` call?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 18]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+    apply ContinuousOn.mul _ _
+    · exact Continuous.continuousOn (IsROrC.continuous_ofReal (K := ℂ))
+    exact continuousOn_const
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: the bottom `exact` can probably go into the top `apply`?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 19]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+          mul_one, sub_self, add_zero]
+      rw [h] at this
+      simp only [zero_re] at this
+      absurd this
+      norm_num
+    apply ContinuousOn.add _ _
+    · exact continuousOn_const
+    apply ContinuousOn.mul _ _
+    · exact Continuous.continuousOn (IsROrC.continuous_ofReal (K := ℂ))
+    exact continuousOn_const
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: same

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 20]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+
+theorem ResidueTheoremAtOrigin_aux2 :
+  (I * ∫ (y : ℝ) in (-0 - 1)..0 + 1, 1 / ((1 + 0 : ℝ) + y * I)) -
+    I * ∫ (y : ℝ) in (-0 - 1)..0 + 1, 1 / ((-1 - 0 : ℝ) + y * I) = π * I
+  := by
+  simp only [add_zero, ofReal_one, one_div, neg_zero, zero_sub, zero_add, sub_zero, ofReal_neg]
+  rw [← mul_sub]
+  rw [mul_comm (π : ℂ) I]
+  simp only [mul_eq_mul_left_iff, I_ne_zero, or_false]
+  rw [← intervalIntegral.integral_sub]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: same

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 21]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+  · have : ∀ y : ℝ, (1 + y * I)⁻¹ - (-1 + y * I)⁻¹ = 2 * (1 / (1 + (y : ℝ)^2)) := by
+      intro y
+      exact ResidueTheoremAtOrigin_aux2b y
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean:468]: instead of 
```
:= by 
intro y
exact something y
```
you can do:
```
:= fun y ↦ something y
```
```

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 22]
```diff
@@ -228,6 +229,269 @@ that the inner square is strictly contained in the big rectangle.)
...
+    simp_rw [this]
+    rw [intervalIntegral.integral_const_mul 2]
+    rw [ResidueTheoremAtOrigin_aux1a]
+    simp
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine, non-terminal `simp`

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 23]
```diff
@@ -237,7 +501,16 @@ The rectangle (square) integral of $f(s) = 1/s$ with corners $-1-i$ and $1+i$ is
 %%-/
 lemma ResidueTheoremAtOrigin :
     RectangleIntegral' (fun s ↦ 1 / s) (-1 - I) (1 + I) = 1 := by
-  sorry
+  dsimp [RectangleIntegral', RectangleIntegral]
+  rw [ResidueTheoremAtOrigin_aux1]
+  rw [add_sub_assoc]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: combine

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 24]
```diff
@@ -237,7 +501,16 @@ The rectangle (square) integral of $f(s) = 1/s$ with corners $-1-i$ and $1+i$ is
...
+  have := ResidueTheoremAtOrigin_aux2
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean:486]: don't need this `have`? So next `rw` can be combined with ones above?

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 25]
```diff
@@ -237,7 +501,16 @@ The rectangle (square) integral of $f(s) = 1/s$ with corners $-1-i$ and $1+i$ is
...
+  rw [ResidueTheoremAtOrigin_aux2]
+  have : (2 * π * I) ≠ 0 := by
+    norm_num
+    exact pi_ne_zero
+  field_simp
+  ring
 /-%%
 \begin{proof}
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: Now you can add `\leanok` after `\begin{proof}` because you proved it! (That'll update the color in the blueprint dependency graph) Woohoo!!

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean (hunk 1 above)
Comment (ultronozm) [reply PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean]: nice observation!

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean (hunk 11 above)
Comment (ultronozm) [reply PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean:365]: nope

**Review by AlexKontorovich — APPROVED** [review]
Nicely done!
